US07153851B2
c is-1-Benzyl-3-hydroxy-4-methylpyrrolidine (6.81 g) was dissolved in dichloromethane (70 mL). While this solution was cooled on a dry ice/acetone bath, triethylamine (5.21 mL) was added. Methanesulfonyl chloride (2.89 mL) was then added dropwise and the mixture was further stirred for 1 hour. Following addition of water (50 mL), the temperature of the mixture was allowed to rise to room temperature and the dichloromethane layer was separated. The aqueous layer was extracted with dichloromethane (50 mL) and the extract was combined with the dichloromethane layer. The combined dichloromethane layer was then washed with water, followed by drying over anhydrous sodium sulfate and concentration under reduced pressure. The resulting residue was dissolved in acetonitrile (180 mL). To this solution, tetrabutylammonium cyanide (23.9 g) was added and the mixture was refluxed for 7 hours while heated. Subsequently, the reaction mixture was concentrated under reduced pressure and the resulting residue was dissolved in ethyl acetate (300 mL). The solution was washed with water, was dried over anhydrous sodium sulfate, and was concentrated under reduced pressure. The resulting residue was purified on a silica gel column (hexane:ethyl acetate=1:1) to give 4.61 g of cis-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile as a brown oil.

reactant | 1-Benzyl-3-hydroxy-4-methylpyrrolidine | 6.81 g | C(C1=CC=CC=C1)N1CC(C(C1)C)O | C12H17NO
reactant | triethylamine | 5.21 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.89 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | cis-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile | 4.61 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C)C#N | C13H16N2
